US05459142
To a suspension (90 ml) of dried dichloromethane, containing 3.00 g of 5-hydroxy-3-isobutyl-6-(3,4,5-trimethoxy-benzyl)-1,2-dihydropyrazin-2-one 4-oxide, there were added 1.16 g of tert-butyldimethylsilyl chloride and 1.05 g of imidazole, and the mixture was stirred at room temperature for 18 hours. The reaction mixture was washed with an aqueous solution saturated with sodium chloride and was dried with magnesium sulfate. After filtration of the reaction mixture, to the filtrate was added a diethyl ether solution of diazo-methane, then this mixture was allowed to stand at room temperature for 1.5 hours. The solvent was removed by distillation under reduced pressure, the resulting residue was dissolved in 50 ml of tetrahydrofuran and 5 ml of methanol, then 5 ml of tetrahydrofuran solution of 1M-n-Bu4N⊕F⃝ was added thereto and was stirred at room temperature for 10 minutes. To this reaction mixture was added ethyl acetate and water, then the organic layer was obtained by separation and dried with magnesium sulfate. The solvent was removed by distillation, and the residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane), and the pale yellow oily substance was crystallized from diethyl ether to obtain 0.74 g of 3-isobutyl-5-methoxy-6-(3,4,5-trimethoxybenzyl)-1,2dihydro pyrazin-2-one 4-oxide. Pale yellow needles

reactant | 5-hydroxy-3-isobutyl-6-(3,4,5-trimethoxy-benzyl)-1,2-dihydropyrazin-2-one 4-oxide | 3.00 g | OC=1[N+](=C(C(NC1CC1=CC(=C(C(=C1)OC)OC)OC)=O)CC(C)C)[O-] | C18H24N2O6
reactant | tert-butyldimethylsilyl chloride | 1.16 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 1.05 g | N1C=NC=C1 | C3H4N2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 3-isobutyl-5-methoxy-6-(3,4,5-trimethoxybenzyl)-1,2dihydro pyrazin-2-one 4-oxide | 0.74 g | C(C(C)C)C=1C(NC(=C([N+]1[O-])OC)CC1=CC(=C(C(=C1)OC)OC)OC)=O | C19H26N2O6
